US09120968B2
Examples of the photopolymerization initiator include acetophenone, benzophenone, benzildimethylketal, benzoyl peroxide, 2-chlorothioxanthone, 1,3-bis(4′-azidobenzal)-2-propane, 1,3-bis(4′-azidobenzal)-2-propane-2′-sulfonic acid, and 4,4′-diazidostilbene-2,2′-disulfonic acid. Examples of commercially available photopolymerization initiators include “Irgacure (trade name)-184”, “Irgacure (trade name)-369”, “Darocur (trade name)-1173”, and “Lucirin-TPO” produced by BASF,“KAYACURE (trade name) DETX” and “KAYACURE (trade name) OA” produced by Nippon Kayaku Co., Ltd., “Vicure 10” and “Vicure 55” produced by Stauffer Chemical Co., “Trigonal PI” produced by Akzo Nobel N.V., “Sandrey 1000” produced by Sand, “Deep” produced by Upjohn Company, and “Biimidazole” produced by KUROGANE KASEI Co., Ltd.

reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-chlorothioxanthone | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H7ClOS
reactant | 4,4′-diazidostilbene-2,2′-disulfonic acid | N(=[N+]=[N-])C=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)N=[N+]=[N-])S(=O)(=O)O)S(=O)(=O)O | C14H10N6O6S2
product | DETX | CCC1=CC(=C2C(=C1)C(=O)C3=CC=CC=C3S2)CC | C17H16OS
